US06514964B1
Step B: Methyl 2-{8-chloro-2-[N-(3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propyl) carbamoyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate
A solution of methyl 2-{2-[(tert-butyl)oxycarbonyl-8-chloro-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate (1 eq) in 1.17 M of HCl/ethyl acetate (30 eq) was stirred at room temperature for 18 hr. The reaction mixture was concentrated and dried under vacuum oven. The resulting residue was dissolved in methylene chloride (0.15 M) and followed by the addition of phosgene/toluene (20%) (10 eq) under nitrogen. After stirring for 1 hr, the solvent was removed by rotary evaporation. The residue was dissolved in 1 ml of N,N-dimethylformamide (0.07 M), followed by the addition of 3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propylamine (2 eq) and N,N-diisopropylethylamine (10 eq). The reaction mixture was heated at 50° C. for 2 hr. The reaction solvent was removed by rotary evaporation and the residue was purified by flash chromatography (5% methanol/methylene chloride. EI-MS m/z 471 (M+H)+.

reactant | HCl ethyl acetate | 1.17 M, 30 eq | Cl.C(C)(=O)OCC
reactant | phosgene toluene | 10 eq | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
reactant | 3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propylamine | 2 eq | N1CCCC=2C1=NC(=CC2)CCCN | C11H17N3
reactant | N,N-diisopropylethylamine | 10 eq | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 2-{8-chloro-2-[N-(3-(1,2,3,4-tetrahydropyridino[2,3-b]pyridin-7-yl)propyl) carbamoyl]-1H,3H,4H,5H-benzo[e]azepin-5-yl}acetate | ClC1=CC2=C(C(CCN(C2)C(NCCCC2=CC=C3C(=N2)NCCC3)=O)CC(=O)OC)C=C1 | C25H31ClN4O3
